US05055223
8.5 g of p-bromophenyl-sulfur pentafluoride and 20 ml of piperidine are added to a mixture of 8.5 g of 4-pentoxyphenylacetylene, 20 ml of piperidine, 420 mg of triphenylphosphine-palladium(II) chloride and 30 mg of copper iodide, and the combined mixture is heated for 20 hours. Concentration and working up in the customary manner gives 4-(2-(4-pentoxyphenyl)-ethynyl)-phenyl-sulfur pentafluoride.

reactant | p-bromophenyl-sulfur pentafluoride | 8.5 g | BrC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H4BrF5S
reactant | 4-pentoxyphenylacetylene | 8.5 g | C(CCCC)OC1=CC=C(C=C1)C#C | C13H16O
catalyst | triphenylphosphine palladium(II) chloride | 420 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd](Cl)Cl
catalyst | copper iodide | 30 mg | [Cu](I)I
solvent | piperidine | 20 ml | N1CCCCC1 | C5H11N
solvent | piperidine | 20 ml | N1CCCCC1 | C5H11N
product | 4-(2-(4-pentoxyphenyl)-ethynyl)-phenyl-sulfur pentafluoride | C(CCCC)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C19H19F5OS
